US04112086
A solution of 7β-D-mandelamido-3-(1-diethoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid in methanol was adjusted to pH 6.5 by addition of 5% aqueous sodium methoxide then filtered. Ether was added to the filtrate and the solid material which formed was collected by filtration to give 7β-D-mandelamido-3-(1-diethoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid sodium salt.

reactant | 7β-D-mandelamido-3-(1-diethoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | C([C@H](O)C1=CC=CC=C1)(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C(CP(=O)(OCC)OCC)SC2=NN=NN2)C(=O)O)C1=O | C22H27N6O8PS2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 7β-D-mandelamido-3-(1-diethoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid sodium salt | [Na+].C([C@H](O)C1=CC=CC=C1)(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C(CP(=O)(OCC)OCC)SC2=NN=NN2)C(=O)[O-])C1=O | InChI=1S/C22H27N6O8PS2.Na/c1-3-35-37(34,36-4-2)10-14(39-22-24-26-27-25-22)13-11-38-20-15(19(31)28(20)16(13)21(32)33)23-18(30)17(29)12-8-6-5-7-9-12;/h5-9,14-15,17,20,29H,3-4,10-11H2,1-2H3,(H,23,30)(H,32,33)(H,24,25,26,27);/q;+1/p-1/t14?,15-,17-,20-;/m1./s1
